US08431586B2
Step 2: 4-[((1S,2R)-2-{[amino(methoxyimino)methyl]amino}cyclohexyl)amino]-N-(2-methoxyethyl)-6-methylquinazolin-2-carboxamide
To a solution of 1.96 g of 4-{[(1S,2R)-2-(cyanoamino)cyclohexyl]amino}-N-(2-methoxyethyl)-6-methylquinazolin-2-carboxamide and 8.56 g of methoxyamine hydrochloride in 80 ml of ethanol, 10.86 g of sodium carbonate was added and the mixture was heated at reflux for 1 hour. The reaction solution was added to 400 ml of ice water, and the deposited substance was collected by filtration. After the collected deposited substance was washed with water, it was dried under reduced pressure. The obtained powder was washed with a mixed solution of (chloroform:diisopropyl alcohol=1:1), whereby 1.71 g of a desired compound was obtained as a white powder.

reactant | 4-{[(1S,2R)-2-(cyanoamino)cyclohexyl]amino}-N-(2-methoxyethyl)-6-methylquinazolin-2-carboxamide | 1.96 g | C(#N)N[C@H]1[C@H](CCCC1)NC1=NC(=NC2=CC=C(C=C12)C)C(=O)NCCOC | C20H26N6O2
reactant | methoxyamine hydrochloride | 8.56 g | Cl.CON
reactant | sodium carbonate | 10.86 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 4-[((1S,2R)-2-{[amino(methoxyimino)methyl]amino}cyclohexyl)amino]-N-(2-methoxyethyl)-6-methylquinazolin-2-carboxamide | 1.71 g | NC(=NOC)N[C@H]1[C@H](CCCC1)NC1=NC(=NC2=CC=C(C=C12)C)C(=O)NCCOC | C21H31N7O3
